US06638929B2
A mixture of 4-chloro-7.8-dimethoxybenzo[b][1,8]naphthyridine-3-carbonitrile (150 mg, 0.50 mmol), 2,4-dichloro-5-methoxyaniline (160 mg, 0.83 mmol) and pyridine hydrochloride (70 mg, 0.60 mmol) in 15 mL of 2-ethoxyethanol is heated at reflux for 25 minutes then cooled to room temperature. The solution is partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is partitioned between ethyl acetate and an aqueous solution of sodium hydroxide and sodium bicarbonate (pH 14). The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. Diethyl ether is added to the residue and the resultant bright orange solid is collected to provide 86 mg (38%) of 4-(2,4-dichloro-5-methoxyanilino)-7,8-dimethoxybenzo[b][1,8]naphthyridine-3-carbonitrile, mp 297° C. dec.

reactant | 4-chloro-7.8-dimethoxybenzo[b][1,8]naphthyridine-3-carbonitrile | 0.50 mmol, 150 mg | ClC=1C=2C=C3C(=NC2N=CC1C#N)C=C(C(=C3)OC)OC | C15H10ClN3O2
reactant | 2,4-dichloro-5-methoxyaniline | 0.83 mmol, 160 mg | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
reactant | pyridine hydrochloride | 0.60 mmol, 70 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 4-(2,4-dichloro-5-methoxyanilino)-7,8-dimethoxybenzo[b][1,8]naphthyridine-3-carbonitrile | 86 mg, 38% | ClC1=C(NC=2C=3C=C4C(=NC3N=CC2C#N)C=C(C(=C4)OC)OC)C=C(C(=C1)Cl)OC | C22H16Cl2N4O3
